US06547841B2
The Cis and Trans Isomers of 1-(2,3-Dihydrobenzofuran-3-yl-methoxy)-2,2,6,6-tetramethylpiperidine
The procedure of Example 1 is repeated using 3.0 g (19 mmol) of 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine, 4.64 g (45 mmol) of tert-butyl nitrite, 11.45 mg (0.019 mmol) of (S,S)-(+)-N,N-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediaminocobalt(II) mmol) in 80 mL of pyridine and 6.27 g (38 mmol) of 2-(1-methylallyloxyaniline in 10 mL of pyridine. The crude product obtained is purified by vacuum flash chromatography (25% ethyl acetate/heptane) to give 5.31 g of a viscous liquid in 92.4% yield. The cis and trans isomers can be further separated by chromatography. The structures are confirmed by 1Hnmr analysis.

reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 19 mmol, 3.0 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | tert-butyl nitrite | 45 mmol, 4.64 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 1-methylallyloxyaniline | CC(C=C)ONC1=CC=CC=C1 | C10H13NO
reactant | pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2,3-Dihydrobenzofuran-3-yl-methoxy)-2,2,6,6-tetramethylpiperidine | 5.31 g, 92.4% yield | O1CC(C2=C1C=CC=C2)CON2C(CCCC2(C)C)(C)C | C18H27NO2
